US07777047B2
ethyl 5-methoxy-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate
To a solution of ethyl 7-amino-5-methoxy-1H-indole-2-carboxylate (2.5 g) in pyridine (20 mL) was added 2-pyridinesulfonyl chloride (2.1 g) under ice-cooling, and the mixture was stirred for 2 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was dissolved in N,N-dimethylformamide (20 mL), methyl iodide (1.5 g) and potassium carbonate (2 g) were added, and the mixture was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid and saturated brine, dried (MgSO4), and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography to give the title compound (2.7 g, yield 68%) as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (50:50, volume ratio). MS: 390 (MH+).

reactant | ethyl 7-amino-5-methoxy-1H-indole-2-carboxylate | 2.5 g | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OC | C12H14N2O3
reactant | 2-pyridinesulfonyl chloride | 2.1 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-methoxy-7-[methyl(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxylate | 2.7 g, yield 68% | COC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C(=O)OCC | C18H19N3O5S
